US04197243
Following the procedure set forth in general method A supra using 1.15 g. of 5-chloro-4-dimethylamino-2-methoxybenzoic acid and 1.07 g. of 3-amino-1-(4-fluorobenzyl)-pyrrolidine, 0.9 g. of N-[1-(4-fluorobenzyl)-3-pyrrolidinyl]-5-chloro-4-dimethylamino-2-methoxybenzamide was obtained.

reactant | 5-chloro-4-dimethylamino-2-methoxybenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OC)N(C)C | C10H12ClNO3
reactant | 3-amino-1-(4-fluorobenzyl)-pyrrolidine | NC1CN(CC1)CC1=CC=C(C=C1)F | C11H15FN2
product | N-[1-(4-fluorobenzyl)-3-pyrrolidinyl]-5-chloro-4-dimethylamino-2-methoxybenzamide | FC1=CC=C(CN2CC(CC2)NC(C2=C(C=C(C(=C2)Cl)N(C)C)OC)=O)C=C1 | C21H25ClFN3O2
